* Z:\home\niko\projects\SensorNode\Draft1.asc
* Generated by LTspice 26.0.1 for Windows.
R1 Vcc N001 {mc(250k,0.01)}
R2 N001 N002 {mc(3.08k,0.01)}
R3 N002 0 {mc(25.8k,0.01)}
R4 Vcc out {mc(100k,0.01)}
Vcc Vcc 0 2
X§U2 Vin N001 Vcc 0 out level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U1 N002 Vin Vcc 0 out level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R§Pt1000 Vin 0 {1000*(1+0.00385*temp)*mc(1,0.0012)}
R5 Vcc Vin {mc(10k,0.01)}
.step param temp -20 70 0.5
.op
.step param run 1 100 1
* Library below included based on ModelFile attribute of instance X§U2, X§U1 (C:\users\niko\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
